US07968581B2
Step 5: 4-[4-(3-Cyanophenyl)-2,5-dioxo-3-methyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 358 mg of 4-[4-(3-cyanophenyl)-2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile in DMF (1.5 mL) 135 mg of potassium carbonate and 101 μL of methyl iodide are added. The mixture is stirred during the night at room temperature, evaporated, washed with brine, extracted with ethyl acetate, dried over magnesium sulfate and concentrated to give the desired compound.

reactant | 4-[4-(3-cyanophenyl)-2,5-dioxo-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 358 mg | C(#N)C=1C=C(C=CC1)C1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)COCC=C | C22H15F3N4O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 101 μL | CI | CH3I
solvent | DMF | 1.5 mL, 135 mg | CN(C)C=O | C3H7NO
product | 4-[4-(3-Cyanophenyl)-2,5-dioxo-3-methyl-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | C(#N)C=1C=C(C=CC1)C1(N(C(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C)COCC=C | C23H17F3N4O3
